US08314087B2
2-(2-(2-Chloropyridin-4-ylamino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one
A suspension of 2-chloro-4-fluoropyridine (904 mg, 6.87 mmol), 2-(2-aminoethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one (1470 mg, 6.25 mmol), and K2CO3 (1727 mg, 12.5 mmol) in DMF (8 mL) was stirred at 75° C. for 4 h. The mixture was partioned between CH2Cl2 (100 mL) and 5% NaHCO3 (50 mL). The organic layer was dried over MgSO4, concentrated, then purified on 40 g silica eluting with 20>60% of 2M NH3 in MeOH/CH2Cl2. Product isolated as a white solid. MS (ESI pos. ion) m/z (MH+): 347. Calc'd exact mass for C16H15ClN4OS: 346. 1H NMR (400 MHz, Chloroform-d) δ ppm 2.29 (s, 3 H) 3.61 (q, J=5.35 Hz, 2 H) 4.44-4.51 (m, 2 H) 5.31 (br. s., 1 H) 6.46 (s, 1 H) 6.94-7.01 (m, 2 H) 7.19 (s, 1 H) 7.57 (d, J=9.54 Hz, 1 H) 7.91 (d, J=6.02 Hz, 1 H). 13C NMR (101 MHz, Chloroform-d) δ ppm 15.76, 42.71, 50.46, 106.06, 107.27, 123.73, 128.21, 129.82, 130.08, 138.12, 138.76, 141.69, 149.32, 152.31, 155.06, 160.44.

reactant | 2-chloro-4-fluoropyridine | 6.87 mmol, 904 mg | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | 2-(2-aminoethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one | 6.25 mmol, 1470 mg | NCCN1N=C(C=CC1=O)C=1SC=C(C1)C | C11H13N3OS
reactant | K2CO3 | 12.5 mmol, 1727 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(2-Chloropyridin-4-ylamino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one | ClC1=NC=CC(=C1)NCCN1N=C(C=CC1=O)C=1SC=C(C1)C | C16H15ClN4OS
